US07595324B2
4-(4-(mesitylamino)thieno[3,2-d]pyrimidin-2-ylamino)benzonitrile
To a solution of 2-Chloro-N-mesitylthieno[3,2-d]pyrimidin-4-amine (51.4 mg, 0.17 mmol), TFA (0.11 mL, 1.36 mmol) in TFE (1 mL) was added 4-aminobenzonitrile (80.2 mg, 0.68 mmol) in a sealed tube. The reaction was stirred at 90° C. for 15 h. Reaction mixture was diluted with ethyl acetate and washed with saturated NaHCO3 (3×10 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by prep HPLC to afford the product as a white solid (13 mg, 20%): 1H NMR (DMSO, 300 MHz) δ 2.09 (s, 6H), 2.31 (s, 3H), 7.00 (s, 2H), 7.28 (d, J=5.7 Hz, 1H), 7.66 (d, J=8.4 Hz, 2H), 8.06-8.08 (m, 3H), 9.60 (bs, 1H), 9.72 (bs, 1H).

reactant | 2-Chloro-N-mesitylthieno[3,2-d]pyrimidin-4-amine | 0.17 mmol, 51.4 mg | ClC=1N=C(C2=C(N1)C=CS2)NC2=C(C=C(C=C2C)C)C | C15H14ClN3S
reactant | TFA | 1.36 mmol, 0.11 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-aminobenzonitrile | 0.68 mmol, 80.2 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-(mesitylamino)thieno[3,2-d]pyrimidin-2-ylamino)benzonitrile | 13 mg, 20% | C1(=C(C(=CC(=C1)C)C)NC=1C2=C(N=C(N1)NC1=CC=C(C#N)C=C1)C=CS2)C | C22H19N5S
